US06498251B1
A 434 mg (1.26 mmol) portion of 2-t-butoxycarbonyl-9-dimethylcarbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole was dissolved in 10 ml of methanol, and the solution was mixed with 1 ml of 10% hydrochloric acid-methanol and stirred overnight. The solvent was removed by evaporation under a reduced pressure and the resulting residue was recrystallized from methanol-ethyl acetate to obtain 291 mg (82% in yield) of 9-dimethylcarbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole hydrochloride.

reactant | 2-t-butoxycarbonyl-9-dimethylcarbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)C(N(C)C)=O | C19H25N3O3
reactant | hydrochloric acid methanol | 1 ml | Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 9-dimethylcarbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole hydrochloride | 291 mg, 82% | Cl.CN(C(=O)N1C2=C(C3=CC=CC=C13)CCNC2)C | InChI=1S/C14H17N3O.ClH/c1-16(2)14(18)17-12-6-4-3-5-10(12)11-7-8-15-9-13(11)17;/h3-6,15H,7-9H2,1-2H3;1H
